US04281000
3-Bromo-7-(3-pyridyl)pyrazolo-[1,5-a]pyrimidine pyridine-1-oxide
A mixture of 0.90 g. of 3-bromo-7-(3-pyridyl)pyrazolo[1,5-a]pyrimidine, 25 ml. of glacial acetic acid and 5 ml. of 30% hydrogen peroxide is heated on a steam bath for 4 hours. The mixture is filtered and the solid recrystallized from ethanol to give 0.40 g. of the product of the example, m.p. 280°-284° C.

reactant | 3-bromo-7-(3-pyridyl)pyrazolo[1,5-a]pyrimidine | BrC=1C=NN2C1N=CC=C2C=2C=NC=CC2 | C11H7BrN4
reactant | hydrogen peroxide | OO | H2O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-Bromo-7-(3-pyridyl)pyrazolo-[1,5-a]pyrimidine pyridine-1-oxide | [N+]1(=CC=CC=C1)[O-].BrC=1C=NN2C1N=CC=C2C=2C=NC=CC2 | InChI=1S/C11H7BrN4.C5H5NO/c12-9-7-15-16-10(3-5-14-11(9)16)8-2-1-4-13-6-8;7-6-4-2-1-3-5-6/h1-7H;1-5H
